US08791103B2
(e) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzamide
Prepared analogously to Example 1f from 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine, TBTU and NMM in DMF, then acidifying with TFA and purification of the residue by chromatography (preparative HPLC).

reactant | 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(OCCCC1)=O | C13H15NO4
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(OCCCC2)=O)C)=O)C=C1 | C22H23ClN4O3
